*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.6
* < ILD_dielectric_const = 3.9
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_0 1 2 3 4 REF
C_C1 1 REF 1.1032627654856pf
C_C2 1 2 13.621585522052pf
C_C3 1 3 0.0112155524637pf
C_C4 1 4 0.1929418533044pf
C_C5 2 REF 1.2670989789052pf
C_C6 2 3 0.0966982162033pf
C_C7 3 REF 0.3227000834117pf
C_C8 3 4 7.6932427013956pf
C_C9 4 REF 0.3162595452679pf
L_L1 3 5 1.3145372789409nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_1 1 2 3 4 REF
C_C1 1 REF 0.8270963558173pf
C_C2 1 2 13.866600862442pf
C_C3 1 3 0.0115282878679pf
C_C4 1 4 0.1933505070181pf
C_C5 2 REF 0.9948879180978pf
C_C6 2 3 0.0963603512879pf
C_C7 3 REF 0.322742060588pf
C_C8 3 4 5.7020245901676pf
C_C9 4 REF 0.3164548059424pf
R_R1 1 2 935.24938473979
L_L1 3 5 1.3161829718654nh
R_RL1 5 4 2.8049893899e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_2 1 2 3 4 REF
C_C1 1 REF 0.6375536956428pf
C_C2 1 2 14.08316977768pf
C_C3 1 3 0.0116813366005pf
C_C4 1 4 0.1941084358172pf
C_C5 2 REF 0.8089770569055pf
C_C6 2 3 0.096069361589pf
C_C7 3 REF 0.3228973714764pf
C_C8 3 4 4.3133925880165pf
C_C9 4 REF 0.3167437389088pf
R_R1 1 2 903.27204475247
L_L1 3 5 1.3175519171072nh
R_RL1 5 4 1.7635819404e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_3 1 2 3 4 REF
C_C1 1 REF 0.4816650833165pf
C_C2 1 2 14.340285717507pf
C_C3 1 3 0.0116653582782pf
C_C4 1 4 0.1955555671348pf
C_C5 2 REF 0.6575429022623pf
C_C6 2 3 0.0958263726708pf
C_C7 3 REF 0.3231785237649pf
C_C8 3 4 3.120358508038pf
C_C9 4 REF 0.3171723994807pf
R_R1 1 2 885.49702154225
L_L1 3 5 1.3189350982761nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_4 1 2 3 4 REF
C_C1 1 REF 0.3667732419656pf
C_C2 1 2 14.650353099631pf
C_C3 1 3 0.0113972267845pf
C_C4 1 4 0.1979296484053pf
C_C5 2 REF 0.5481169918137pf
C_C6 2 3 0.0957549689925pf
C_C7 3 REF 0.3235447103849pf
C_C8 3 4 2.1660277659648pf
C_C9 4 REF 0.3176966246673pf
R_R1 1 2 888.09724351927
L_L1 3 5 1.3203144670309nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_5 1 2 3 4 REF
C_C1 1 REF 0.3006219694675pf
C_C2 1 2 14.98274573841pf
C_C3 1 3 0.0108802089688pf
C_C4 1 4 0.2010078512755pf
C_C5 2 REF 0.4878153948964pf
C_C6 2 3 0.0959615306451pf
C_C7 3 REF 0.3238819782148pf
C_C8 3 4 1.5359715925891pf
C_C9 4 REF 0.3181789900497pf
R_R1 1 2 914.67519878195
L_L1 3 5 1.3214253771734nh
R_RL1 5 4 -1.865564326e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_6 1 2 3 4 REF
C_C1 1 REF 0.2632133406928pf
C_C2 1 2 15.350052932252pf
C_C3 1 3 0.0101333894543pf
C_C4 1 4 0.2047716919302pf
C_C5 2 REF 0.4567643500501pf
C_C6 2 3 0.096461060699pf
C_C7 3 REF 0.3241563436656pf
C_C8 3 4 1.1054094925784pf
C_C9 4 REF 0.3185886153053pf
R_R1 1 2 966.8184739578
L_L1 3 5 1.3223349318449nh
R_RL1 5 4 -2.849055389e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_7 1 2 3 4 REF
C_C1 1 REF 0.240808129755pf
C_C2 1 2 15.837716170617pf
C_C3 1 4 0.2100636802002pf
C_C4 2 REF 0.4425701486681pf
C_C5 2 3 0.0974328033639pf
C_C6 3 REF 0.3243824608515pf
C_C7 3 4 0.7627339359746pf
C_C8 4 REF 0.3189613379053pf
L_L1 3 5 1.3231893582458nh
R_RL1 5 4 -3.780511017e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_8 1 2 3 4 REF
C_C1 1 REF 0.2299107344657pf
C_C2 1 2 16.476566770629pf
C_C3 1 4 0.2171978121116pf
C_C4 2 REF 0.4420704977008pf
C_C5 2 3 0.0990212052372pf
C_C6 3 REF 0.3245277943303pf
C_C7 3 4 0.4995986813178pf
C_C8 4 REF 0.3192589441757pf
L_L1 3 5 1.3239918257871nh
R_RL1 5 4 -4.610214216e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_9 1 2 3 4 REF
C_C1 1 REF 0.2269479619352pf
C_C2 1 2 17.327121511283pf
C_C3 1 4 0.2267988325818pf
C_C4 2 REF 0.4524165839378pf
C_C5 2 3 0.1014634387258pf
C_C6 3 REF 0.3245701593095pf
C_C7 3 4 0.3062619458658pf
C_C8 4 REF 0.3194556551589pf
L_L1 3 5 1.3246998457297nh
R_RL1 5 4 -5.221701838e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_10 1 2 3 4 REF
C_C1 1 REF 0.2276816603703pf
C_C2 1 2 18.448499911515pf
C_C3 1 4 0.2394381957512pf
C_C4 2 REF 0.4700399269016pf
C_C5 2 3 0.1049725563059pf
C_C6 3 REF 0.3245120836121pf
C_C7 3 4 0.1667060102043pf
C_C8 4 REF 0.3195529638081pf
L_L1 3 5 1.3253286247372nh
R_RL1 5 4 -5.559104807e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_11 1 2 3 4 REF
C_C1 1 REF 0.2285835982767pf
C_C2 1 2 19.957459007325pf
C_C3 1 4 0.2563046283737pf
C_C4 2 REF 0.4928538953442pf
C_C5 2 3 0.1099587595998pf
C_C6 3 REF 0.3243624002198pf
C_C7 3 4 0.0688933103774pf
C_C8 4 REF 0.319566688704pf
L_L1 1 5 79.623954416139nh
R_RL1 5 2 15.980590707355
L_L2 3 6 1.3258385400004nh
R_RL2 6 4 -5.534439197e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_12 1 2 3 4 REF
C_C1 1 REF 0.226503810558pf
C_C2 1 2 21.991068728613pf
C_C3 1 4 0.2787879333539pf
C_C4 2 REF 0.5194179405811pf
C_C5 2 3 0.116893564368pf
C_C6 3 REF 0.3241420522968pf
C_C7 4 REF 0.3195326499191pf
L_L1 1 5 48.863834457714nh
R_RL1 5 2 10.528678144453
L_L2 3 6 1.3262373497804nh
R_RL2 6 4 -5.115415433e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_13 1 2 3 4 REF
C_C1 1 REF 0.2182334803653pf
C_C2 1 2 24.826306099498pf
C_C3 1 4 0.3097775759344pf
C_C4 2 REF 0.5500934343616pf
C_C5 2 3 0.1267440339719pf
C_C6 3 REF 0.323864551279pf
C_C7 4 REF 0.319494671057pf
R_R1 1 2 -865.040070924
L_L1 1 5 29.664357776925nh
R_RL1 5 2 6.5543418392199
L_L2 3 6 1.326069249973nh
R_RL2 6 4 -4.287357842e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_14 1 2 3 4 REF
C_C1 1 REF 0.200345987758pf
C_C2 1 2 28.864252923259pf
C_C3 1 4 0.3534896186026pf
C_C4 2 REF 0.5866817454822pf
C_C5 2 3 0.1409118927629pf
C_C6 3 REF 0.32353926978pf
C_C7 4 REF 0.3195071965555pf
R_R1 1 2 -526.1049310531
L_L1 1 5 17.62357929204nh
R_RL1 5 2 4.1039269605462
L_L2 3 6 1.3257562494206nh
R_RL2 6 4 -3.07867831e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_15 1 2 3 4 REF
C_C1 1 REF 0.1668279178173pf
C_C2 1 2 34.9719937492pf
C_C3 1 4 0.4191176806017pf
C_C4 2 REF 0.634556875536pf
C_C5 2 3 0.1624466079771pf
C_C6 3 REF 0.3231553083552pf
C_C7 4 REF 0.3196469890276pf
R_R1 1 2 -353.5419647934
L_L1 1 5 10.249415341441nh
R_RL1 5 2 3.2794730937567
L_L2 3 6 1.3252188898111nh
R_RL2 6 4 -1.50541091e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_16 1 2 3 4 REF
C_C1 1 REF 0.1016695677452pf
C_C2 1 2 45.629384890286pf
C_C3 1 4 0.5330775664079pf
C_C4 2 REF 0.7104234809429pf
C_C5 2 3 0.2000875609792pf
C_C6 3 REF 0.3226428821889pf
C_C7 4 REF 0.3200787568136pf
R_R1 1 2 -247.4710923229
L_L1 1 5 6.0210402294183nh
R_RL1 5 2 1.2693567182996
L_L2 3 6 1.3242693725069nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_17 1 2 3 4 REF
C_C1 1 2 67.063900432428pf
C_C2 1 4 0.7617052452387pf
C_C3 2 REF 0.8553851669304pf
C_C4 2 3 0.2757881070104pf
C_C5 3 REF 0.3218530806176pf
C_C6 4 REF 0.3212401896216pf
R_R1 1 2 -182.7015750295
L_L1 1 5 2.6192328106644nh
R_RL1 5 2 0.2437462012265
L_L2 3 6 1.3223966768838nh
R_RL2 6 4 1.6778203417e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_18 1 2 3 4 REF
C_C1 1 2 123.14858330143pf
C_C2 1 4 1.3595251390455pf
C_C3 2 REF 1.2274903853555pf
C_C4 2 3 0.4736985796928pf
C_C5 3 REF 0.3202167449498pf
C_C6 4 REF 0.3247992318055pf
R_R1 1 2 -184.4907805552
L_L1 1 5 0.9517466512712nh
R_RL1 5 2 0.0356616789835
L_L2 1 6 44.679730212383nh
R_RL2 6 3 0.022808815133
L_L3 1 7 43.954843174396nh
R_RL3 7 4 0.0230774114418
L_L4 2 8 44.780437048717nh
R_RL4 8 3 0.0018467815963
L_L5 2 9 44.058912319657nh
R_RL5 9 4 0.0017531226741
L_L6 3 10 1.3176142562932nh
R_RL6 10 4 2.9343270612e-5
Kn_K1 L_L1 L_L2 0.0652535183687
Kn_K2 L_L1 L_L3 0.0655294642111
Kn_K3 L_L1 L_L4 -0.080606130492
Kn_K4 L_L1 L_L5 -0.081523083
Kn_K5 L_L2 L_L3 0.9851672555711
Kn_K6 L_L2 L_L4 0.9893618512049
Kn_K7 L_L2 L_L5 0.9744124198507
Kn_K8 L_L2 L_L6 -0.13310149427
Kn_K9 L_L3 L_L4 0.9745055657567
Kn_K10 L_L3 L_L5 0.9891870789456
Kn_K11 L_L3 L_L6 0.0389428171084
Kn_K12 L_L4 L_L5 0.9852010670662
Kn_K13 L_L4 L_L6 -0.132732882418
Kn_K14 L_L5 L_L6 0.0391174438386
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_19 1 2 3 4 REF
C_C1 1 2 405.4571491505pf
C_C2 1 4 4.3696567843567pf
C_C3 2 REF 3.0926997358251pf
C_C4 2 3 1.4691383494949pf
C_C5 3 REF 0.3132500609268pf
C_C6 4 REF 0.3442255571109pf
R_R1 1 2 23.343574840186
L_L1 1 5 25.509391898383nh
R_RL1 5 REF -0.380727941293
L_L2 1 6 0.1964321031993nh
R_RL2 6 2 -0.024793905244
L_L3 1 7 11.115278766149nh
R_RL3 7 3 -0.013265192349
L_L4 1 8 10.442192647718nh
R_RL4 8 4 -0.014154506384
L_L5 2 9 25.370522711456nh
R_RL5 9 REF -0.401695636537
L_L6 2 10 11.157472303968nh
R_RL6 10 3 -1.733549329e-3
L_L7 2 11 10.488858855623nh
R_RL7 11 4 -1.451661188e-3
L_L8 3 12 36.397225637244nh
R_RL8 12 REF -0.381161501563
L_L9 3 13 1.2937472690044nh
R_RL9 13 4 1.886742048e-5
L_L10 4 14 35.715873821944nh
R_RL10 14 REF -0.382044543453
Kn_K1 L_L1 L_L2 0.0748943304418
Kn_K2 L_L1 L_L5 0.99614300999
Kn_K3 L_L1 L_L8 0.8334421705069
Kn_K4 L_L1 L_L10 0.841217481963
Kn_K5 L_L2 L_L3 0.0521911142076
Kn_K6 L_L2 L_L4 0.0522854496693
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.080593120257
Kn_K9 L_L2 L_L7 -0.084680144802
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9404446471092
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9911823874297
Kn_K15 L_L3 L_L7 0.9312079289176
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.259329948443
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.931727232695
Kn_K21 L_L4 L_L7 0.9906177398899
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0844314004434
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8327408364346
Kn_K26 L_L5 L_L10 0.8404348236933
Kn_K27 L_L6 L_L7 0.9406813385112
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.25825052563
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0848504512199
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1439130006347
Kn_K35 L_L8 L_L10 0.9821033074448
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_20 1 2 3 4 REF
C_C1 1 REF 11.968557682459pf
C_C2 1 3 6.2347664174639pf
C_C3 2 4 18.709558547813pf
C_C4 3 REF 0.3629495781515pf
C_C5 4 REF 0.1919014647666pf
R_R1 1 REF -279.3439242271
R_R2 1 2 1.8653647546758
R_R3 1 3 -537.1639637642
R_R4 1 4 174.65410532718
R_R5 2 REF 276.70056431614
R_R6 2 3 537.28429414449
R_R7 2 4 -174.7621285329
L_L1 1 5 4.3520838086227nh
R_RL1 5 REF -0.011599112766
L_L2 1 6 0.18714288755nh
R_RL2 6 2 -0.390343071141
L_L3 1 7 2.6878378955259nh
R_RL3 7 3 -0.175591909438
L_L4 1 8 2.1208733332303nh
R_RL4 8 4 -0.240794993863
L_L5 2 9 4.4985383318295nh
R_RL5 9 REF -0.439311697862
L_L6 2 10 2.642868896138nh
R_RL6 10 3 -0.042307846043
L_L7 2 11 2.0453723025961nh
R_RL7 11 4 -0.017970628038
L_L8 3 12 7.032297745944nh
R_RL8 12 REF -0.211917211191
L_L9 3 13 1.1751045615788nh
R_RL9 13 4 -5.112045986e-3
L_L10 4 14 6.4730147484381nh
R_RL10 14 REF -0.281455141944
Kn_K1 L_L1 L_L2 0.02254264895
Kn_K2 L_L1 L_L5 0.9789894378441
Kn_K3 L_L1 L_L8 0.7859943708333
Kn_K4 L_L1 L_L10 0.8199704488825
Kn_K5 L_L2 L_L3 0.1636361251644
Kn_K6 L_L2 L_L4 0.2084458841097
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.10108003229
Kn_K9 L_L2 L_L7 -0.090224442519
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0325537319637
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7609375503294
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9649277538102
Kn_K16 L_L3 L_L7 0.7253574759608
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.490112292714
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7119160465645
Kn_K22 L_L4 L_L7 0.95523803567
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1926096099515
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0158219124045
Kn_K27 L_L5 L_L7 0.0116860876824
Kn_K28 L_L5 L_L8 0.7901110011344
Kn_K29 L_L5 L_L10 0.8270783858591
Kn_K30 L_L6 L_L7 0.7555114495855
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.502927017021
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1862853656469
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3016680199324
Kn_K38 L_L8 L_L10 0.9137733364028
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_21 1 2 3 4 REF
C_C1 1 2 752.60687888584pf
C_C2 1 4 8.0703996315712pf
C_C3 2 REF 5.3864605883859pf
C_C4 2 3 2.6944590041803pf
C_C5 3 REF 0.3040896187342pf
C_C6 4 REF 0.3674347835703pf
R_R1 1 REF 346.4914455397
R_R2 1 2 -2.319380826161
R_R3 1 3 662.99992492423
R_R4 1 4 -217.2930940957
R_R5 2 REF -349.390035899
R_R6 2 3 -663.5084185947
R_R7 2 4 217.37817657346
L_L1 1 5 8.7758234725102nh
R_RL1 5 REF -0.022569736955
L_L2 1 6 0.0495766898627nh
R_RL2 6 2 0.0268472568202
L_L3 1 7 4.5073412944876nh
R_RL3 7 3 0.0136781657069
L_L4 1 8 3.8660741245766nh
R_RL4 8 4 0.0160789900195
L_L5 2 9 8.7101905847829nh
R_RL5 9 REF 0.0051495167869
L_L6 2 10 4.5307164255815nh
R_RL6 10 3 0.0021971677928
L_L7 2 11 3.89647119175nh
R_RL7 11 4 0.0013643209209
L_L8 3 12 13.20720375106nh
R_RL8 12 REF -7.281783811e-3
L_L9 3 13 1.2426275467714nh
R_RL9 13 4 1.080889009e-4
L_L10 4 14 12.558545480442nh
R_RL10 14 REF -4.861864803e-3
Kn_K1 L_L1 L_L2 0.0873324986972
Kn_K2 L_L1 L_L5 0.9971718046929
Kn_K3 L_L1 L_L8 0.8116239556471
Kn_K4 L_L1 L_L10 0.8319685451516
Kn_K5 L_L2 L_L3 0.0277139320648
Kn_K6 L_L2 L_L4 0.0219046446468
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.076963345475
Kn_K9 L_L2 L_L7 -0.090979386773
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.014145477898
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.8541068624245
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.994518000493
Kn_K16 L_L3 L_L7 0.8476427316423
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.398011776279
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8496093842405
Kn_K22 L_L4 L_L7 0.993620964273
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1371826654828
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8105267366203
Kn_K27 L_L5 L_L10 0.8305063291569
Kn_K28 L_L6 L_L7 0.8549702624629
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.395504028496
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1382421121755
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2334270829108
Kn_K36 L_L8 L_L10 0.9520738726667
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_22 1 2 3 4 REF
C_C1 1 2 88.466134185056pf
C_C2 1 4 0.9838138095199pf
C_C3 2 REF 1.0015684724377pf
C_C4 2 3 0.3528239379776pf
C_C5 3 REF 0.3187972392983pf
C_C6 4 REF 0.3197567457244pf
R_R1 1 2 -40.49456171674
L_L1 1 5 0.3048399379578nh
R_RL1 5 2 0.0707709962334
L_L2 1 6 30.670103610772nh
R_RL2 6 3 0.0446084188951
L_L3 1 7 29.920718303244nh
R_RL3 7 4 0.04542685759
L_L4 2 8 30.923157453621nh
R_RL4 8 3 0.0021577998741
L_L5 2 9 30.182350916813nh
R_RL5 9 4 0.0019786056808
L_L6 3 10 1.3110645016404nh
R_RL6 10 4 -1.045770459e-5
Kn_K1 L_L1 L_L4 -0.090853921266
Kn_K2 L_L1 L_L5 -0.09337624619
Kn_K3 L_L2 L_L3 0.978436832045
Kn_K4 L_L2 L_L4 0.9950591563538
Kn_K5 L_L2 L_L5 0.9733358241011
Kn_K6 L_L2 L_L6 -0.1624659646
Kn_K7 L_L3 L_L4 0.9737149504231
Kn_K8 L_L3 L_L5 0.9949374737414
Kn_K9 L_L3 L_L6 0.044839452824
Kn_K10 L_L4 L_L5 0.9786161697527
Kn_K11 L_L4 L_L6 -0.161126183644
Kn_K12 L_L5 L_L6 0.0453265644541
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_23 1 2 3 4 REF
C_C1 1 REF 0.2360906424171pf
C_C2 1 2 29.692664876825pf
C_C3 1 4 0.3562954552434pf
C_C4 2 REF 0.6187150049298pf
C_C5 2 3 0.1449491104899pf
C_C6 3 REF 0.3191989999722pf
C_C7 4 REF 0.3145423950922pf
R_R1 1 2 -145.6913144635
L_L1 1 5 0.6948412123939nh
R_RL1 5 2 0.1611908745158
L_L2 3 6 1.3176909010474nh
R_RL2 6 4 -2.922492968e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_24 1 2 3 4 REF
C_C1 1 REF 0.3465242150132pf
C_C2 1 2 13.72283521763pf
C_C3 1 3 0.0321142103751pf
C_C4 1 4 0.1866328706282pf
C_C5 2 REF 0.5216673405375pf
C_C6 2 3 0.0870540443759pf
C_C7 3 REF 0.3183966621203pf
C_C8 4 REF 0.3121236758533pf
R_R1 1 2 -597.3391191365
L_L1 1 5 1.0701874916049nh
R_RL1 5 2 0.1023882028774
L_L2 3 6 1.3173635043366nh
R_RL2 6 4 -2.505663042e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_25 1 2 3 4 REF
C_C1 1 REF 0.3923572754301pf
C_C2 1 2 7.7340213730377pf
C_C3 1 3 0.0585149548533pf
C_C4 1 4 0.1227651593878pf
C_C5 2 REF 0.4916312487329pf
C_C6 2 3 0.0636681640818pf
C_C7 3 REF 0.3170883879703pf
C_C8 4 REF 0.3100724859485pf
L_L1 1 5 1.6515003238502nh
R_RL1 5 2 4.3940292946e-4
L_L2 3 6 1.3151662500098nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_26 1 2 3 4 REF
C_C1 1 REF 0.4101787813978pf
C_C2 1 2 5.9381059447136pf
C_C3 1 3 0.0690714947557pf
C_C4 1 4 0.1022575370677pf
C_C5 2 REF 0.4858718377032pf
C_C6 2 3 0.0555120864845pf
C_C7 2 4 0.0316518000095pf
C_C8 3 REF 0.3159618476838pf
C_C9 4 REF 0.3086131611847pf
L_L1 1 5 1.8048621112116nh
R_RL1 5 2 1.1354673525e-4
L_L2 3 6 1.3142038740094nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param60_26

